US08008481B2
To a suspension of 5-nitro-1H-indazol-3-ylamine (0.025 g, 0.140 mmol) and benzaldehyde (0.067 g, 0.60 mmol) in CH2Cl2 (3.0 mL) was added acetic acid (0.024 mL, 0.42 mmol) followed by sodium triacetoxyborohydride (0.059 g, 0.28 mmol). The resulting solution was allowed to stir at room temperature for about 19 hours. The reaction solution was diluted with CH2Cl2 (5 mL) and treated with an aqueous solution of NaOH (1N, 5 mL). The two phases were separated and the organic solvent was removed under reduced pressure. The residue was further purified by preparative HPLC (Thermo Hypersil-Keystone 250×21.2 mm 8 Hypersil® HS C18 column; 5% acetonitrile/0.1 M aqueous ammonium acetate-100% acetonitrile over 20 min, 100% acetonitrile hold 5 minutes, 21 mL/min) to give benzyl-(5-nitro-1H-indazol-3-yl)-amine (0.012 g, 0.046 mmol) as an orange solid. RP-HPLC (Table 1, Method e) Rt 2.15 min.; m/z: (M+H)+ 269.

reactant | 5-nitro-1H-indazol-3-ylamine | 0.140 mmol, 0.025 g | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)N | C7H6N4O2
reactant | benzaldehyde | 0.60 mmol, 0.067 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 0.42 mmol, 0.024 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.28 mmol, 0.059 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1N, 5 mL | [OH-].[Na+]
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | benzyl-(5-nitro-1H-indazol-3-yl)-amine | 0.046 mmol, 0.012 g | C(C1=CC=CC=C1)NC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C14H12N4O2
